US06998412B2
2-Methyl-2-{6-[5-methyl-2-(p-tolyl)oxazol-4-yl]hexyloxy}propionohydroxamic acid
To 20 ml of a solution of 4.84 g of ethyl 2-methyl-2-{6-[5-methyl-2-(p-tolyl)oxazol-4-yl]hexyloxy}propionate in methanol, 3.47 g of hydroxylammonium chloride was added, and then 12.5 ml of solution of 5 M potassium hydroxide in methanol was added dropwise slowly under ice-cooling with stirring. The ice-bath was removed and the mixture was stirred for 36 hours at room temperature. The reaction solution was concentrated. The residue was acidified with 50% aqueous acetic acid solution, water was added thereto and extracted with ethyl acetate. The organic layer was washed with water and brine serially, dried over anhydrous magnesium sulfate and concentrated. The residue was concentrated after addition of toluene, and again concentrated after addition of ethanol to provide 4.90 g of the objective compound as pale yellow oil.

reactant | ethyl 2-methyl-2-{6-[5-methyl-2-(p-tolyl)oxazol-4-yl]hexyloxy}propionate | 4.84 g | CC(C(=O)OCC)(C)OCCCCCCC=1N=C(OC1C)C1=CC=C(C=C1)C | C23H33NO4
reactant | hydroxylammonium chloride | 3.47 g | [Cl-].O[NH3+]
reactant | potassium hydroxide | 5 M | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 2-Methyl-2-{6-[5-methyl-2-(p-tolyl)oxazol-4-yl]hexyloxy}propionohydroxamic acid | 4.90 g | CC(C(=O)NO)(C)OCCCCCCC=1N=C(OC1C)C1=CC=C(C=C1)C | C21H30N2O4
